US07473698B2
6-(3,4-Difluoroanilino)-N-[3-(4-Piperidinyl) Phenyl]Hexanamide
Into a solution of tert-butyl 4-(3-{[6-(3,4-difluoroanilino)hexanoyl]amino}phenyl)-1-piperidine carboxylate (11.2 mg, 0.0224 mmol) in dichloromethane (0.500 mL) at 0° C. was slowly added trifluoroacetic acid (25.5 mg, 2.24 mmol). The reaction mixture was stirred at room temperature for 10 min and concentrated in vacuo. The residue was dissolved in i-PrOH/CHCl3 (1:3, 10 mL) and basified to pH 11 with 10% KOH, washed with H2O, followed by brine. The organic layer was dried over MgSO4 and concentrated in vacuo to give the desired product (8.98 mg, 99%): 1H NMR (400. MHz, CDCl3) δ 7.39-7.08 (m, 5H), 7.06-6.94 (m, 2H), 6.91-6.81 (m, 1H), 6.77-6.67 (m, 1H), 3.54-3.42 (m, 2H), 3.25-3.04 (m, 3H), 2.91-2.80 (m, 1H), 2.45-2.32 (m, 2H), 2.11-1.99 (m, 2H), 1.98-1.83 (m, 2H), 1.80-1.62 (m, 4H), 1.55-1.40 (m, 2H), 1.34-1.23 (m, 1H); ESMS m/e: 402.2 (M+H)+.

reactant | tert-butyl 4-(3-{[6-(3,4-difluoroanilino)hexanoyl]amino}phenyl)-1-piperidine carboxylate | 0.0224 mmol, 11.2 mg | FC=1C=C(NCCCCCC(=O)NC=2C=C(C=CC2)C2CCN(CC2)C(=O)OC(C)(C)C)C=CC1F | C28H37F2N3O3
reactant | trifluoroacetic acid | 2.24 mmol, 25.5 mg | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 0.500 mL | ClCCl | CH2Cl2
product | 6-(3,4-Difluoroanilino)-N-[3-(4-Piperidinyl) Phenyl]Hexanamide | 8.98 mg, 99% | FC=1C=C(NCCCCCC(=O)NC2=CC(=CC=C2)C2CCNCC2)C=CC1F | C23H29F2N3O
